US04267179
To 80 parts of methanol are added 4.7 parts of 5-methyl-1-(4-nitrophenyl)-1H-1,2,4-triazole-3-thiol and 1.2 parts of sodium hydroxide and the whole is stirred till all solid enters solution. Then there are added 2.66 parts of dimethyl sulfate and stirring is continued for 1 hour at room temperature. 100 Parts of water are added. The precipitated product is filtered off, washed with water, dried, and crystallized from 2,2'-oxybispropane, yielding 3.3 parts (66%) of 5-methyl-3-(methylthio)-1-(4-nitrophenyl)-1H-1,2,4-triazole; mp. 121°-125° C.

reactant | methanol | CO | CH4O
reactant | 5-methyl-1-(4-nitrophenyl)-1H-1,2,4-triazole-3-thiol | CC1=NC(=NN1C1=CC=C(C=C1)[N+](=O)[O-])S | C9H8N4O2S
reactant | sodium hydroxide | [OH-].[Na+]
reactant | dimethyl sulfate | S(=O)(=O)(OC)OC | C2H6O4S
solvent | water | O | H2O
product | 5-methyl-3-(methylthio)-1-(4-nitrophenyl)-1H-1,2,4-triazole | 66% | CC1=NC(=NN1C1=CC=C(C=C1)[N+](=O)[O-])SC | C10H10N4O2S
